US05143930
5-{4-[2-Hydroxy-4-hydroxyimino-2-methyl-4-(3,5,6-trimethyl-1,4-benzoquinon-2-yl)butoxy]benzyl}-2,4-dioxothiazolidine
The procedure of Example 1 was repeated, but using 2 g of 5-[4-(6-hydroxy-4-hydroxyimino-2,5,7,8-tetramethylchroman-2-ylmethoxy)benzyl]-2,4-dioxothiazolidine, 15 ml of acetone and 5 ml of an aqueous solution of ferric chloride acidified with hydrochloric acid (a mixture of about 65% by weight of FeCl3.6H2O and about 35% by weight of concentrated hydrochloric acid), to afford 0.74 g of the title compound as a yellow powder softening at 80°-85° C.

reactant | 5-[4-(6-hydroxy-4-hydroxyimino-2,5,7,8-tetramethylchroman-2-ylmethoxy)benzyl]-2,4-dioxothiazolidine | 2 g | OC=1C(=C2C(CC(OC2=C(C1C)C)(C)COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)=NO)C | C24H26N2O6S
reactant | hydrochloric acid | Cl | ClH
reactant | acetone | 15 ml | CC(=O)C | C3H6O
product | 5-{4-[2-Hydroxy-4-hydroxyimino-2-methyl-4-(3,5,6-trimethyl-1,4-benzoquinon-2-yl)butoxy]benzyl}-2,4-dioxothiazolidine | 0.74 g | OC(COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)(CC(C=1C(C(=C(C(C1C)=O)C)C)=O)=NO)C | C24H26N2O7S
